US04867914
Pseudomonas putida D4014-A357 (FERM BP-206) was cultivated in the followingmanner. A medium was prepared by adding 50 ml of tap water to 0.2 g of deoxycholic acid, 0.1 g of glucose, 0.2 g of ammonium nitrate, 0.1 g of potassium dihydrogen phosphate, 0.6 g of dipotassium hydrogen phosphate, 0.02 g of magnesium sulfate heptahydrate and 0.02 g of yeast extract, adjusting the solution to pH 8.4 with 1N sodium hydroxide and further adding water to make the volume 100 ml. This medium was placed in a 500 mlSakaguchi flask and steam-sterilized at 120° C. for 15 minutes. Separately and in advance, the above microbe was grown in the same medium as above on a test tube shaker for one day and a 10 ml portion of the seedculture was added to the above 500 ml Sakaguchi flask, followed by shake culture at 30° C. for 2 days. The precipitate which had formed during the cultivation and the cells were collected by centrifugation and washed with water, and 50 ml of methanol was added thereto to dissolve theprecipitate to a satisfactory extent. Recentrifugation gave a supernatant methanol solution. The methanol was distilled off with a rotary evaporatorto give 65 mg of 12α-hydroxypregna-4-en-3-one-20-carbaldehyde.

reactant | deoxycholic acid | 0.2 g | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2CC[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C | C24H40O4
reactant | glucose | 0.1 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ammonium nitrate | 0.2 g | [N+](=O)([O-])[O-].[NH4+]
reactant | potassium dihydrogen phosphate | 0.1 g | P(=O)(O)(O)[O-].[K+]
reactant | dipotassium hydrogen phosphate | 0.6 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | magnesium sulfate heptahydrate | 0.02 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | O | H2O
product | 12α-hydroxypregna-4-en-3-one-20-carbaldehyde | 65 mg | O[C@H]1C[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2CC[C@H](C(C)C=O)[C@@]12C)=O)C | C22H32O3
